US08252781B2
1-(Adamantan-2-yl)-2-(2-nitrophenyl)hydrazine and bromoacetyl bromide were used for a similar reaction and treatment as Process 3 of Example 1, and 1-(2-bromoacetyl)-1-(adamantan-2-yl)-2-(2-nitrophenyl)hydrazine was obtained as a yellow oil.

reactant | 1-(Adamantan-2-yl)-2-(2-nitrophenyl)hydrazine | C12C(C3CC(CC(C1)C3)C2)NNC2=C(C=CC=C2)[N+](=O)[O-] | C16H21N3O2
reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
product | 1-(2-bromoacetyl)-1-(adamantan-2-yl)-2-(2-nitrophenyl)hydrazine | BrCC(=O)N(NC1=C(C=CC=C1)[N+](=O)[O-])C1C2CC3CC(CC1C3)C2 | C18H22BrN3O3
